US07074819B2
To a stirred solution of (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-heptenoic acid (111 mg, 0.16 mmol) in ethyl alcohol (5 ml), was added 6 N aqueous solution of hydrochloric acid (30 drops) and the reaction mixture was stirred at 40° C. for 6 h. The reaction mixture was diluted with water and extracted with methylene chloride. Organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuum. Crude product was purified by flash chromatography on silica gel (hexane:ethyl acetate:methyl alcohol=10:10:1), and then additionally by preparative thin-layer chromatography on Merck Silica-gel 60 plates (hexane:ethyl acetate:methyl alcohol=5:5:1) to give (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methychroman-4-yl]nonyl}-2-heptenoic acid as a colorless amorphous solid. yield: 47.4 mg (49%)

reactant | (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman-4-yl]nonyl}-2-heptenoic acid | 0.16 mmol, 111 mg | FC(CC/C=C(/C(=O)O)\CCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC)(C(F)(F)F)F | C36H47F5O7
solvent | ethyl alcohol | 5 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 30 drops | Cl | ClH
solvent | water | O | H2O
product | (E)-6,6,7,7,7-pentafluoro-2-{9-[(3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methychroman-4-yl]nonyl}-2-heptenoic acid | FC(CC/C=C(/C(=O)O)\CCCCCCCCCC1C(COC2=CC(=CC=C12)O)(C)C1=CC=C(C=C1)O)(C(F)(F)F)F | C32H39F5O5
